* CSD17573Q5B — LTspice subcircuit (abridged sample: the real model comes
* from the manufacturer; this one only has to have the right shape).
.subckt CSD17573Q5B drain gate source
M1 d g s s NMOS_MODEL
Rd drain d 1.2m
Rg gate g 1.4
Rs source s 0.2m
.model NMOS_MODEL NMOS (Vto=2.1 Kp=180 Lambda=0.002)
.ends CSD17573Q5B
